US08258149B2
To a suspension of 13-ethyl-9,10-dimethoxy-5,6-dihydro-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-7-ylium; iodide (300 mg, 0.61 mmol) in anhydrous diethyl ether (100 mL) at 0° C. was added a solution of isopropenylmagnesium bromide in tetrahydrofuran (0.5 M, 18.4 mL, 9.2 mmol) dropwise. After stirring at 0° C. for 30 min, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 13-ethyl-8-isopropenyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (32 mg, 12%). LC/MS m/e calcd for C25H27NO4 (M+H)+: 406.50, observed: 406.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (t, J=7.20 Hz, 3 H) 1.53 (s, 3 H) 2.57-2.64 (m, 1 H) 2.64-2.71 (m, 1 H) 2.64-2.71 (m, 1 H) 2.71-2.78 (m, 1 H) 2.95-3.04 (m, 1 H) 3.15-3.22 (m, 1 H) 3.72 (s, 3 H) 3.81 (s, 3 H) 4.60 (s, 1 H) 4.72 (s, 1 H) 5.08 (s, 1 H) 6.04 (d, J=4.55 Hz, 2 H) 6.86 (s, 1 H) 6.89 (s, 1 H) 6.96 (s, 2 H).

reactant | 13-ethyl-9,10-dimethoxy-5,6-dihydro-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-7-ylium | C(C)C=1C=2C=CC(=C(C2C[NH+]2C1C1=CC3=C(C=C1CC2)OCO3)OC)OC
reactant | iodide | 0.61 mmol, 300 mg | [I-]
reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
reactant | tetrahydrofuran | 9.2 mmol, 0.5 M, 18.4 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 13-ethyl-8-isopropenyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 32 mg, 12% | C(C)C=1C=2C=CC(=C(C2C(N2C1C1=CC3=C(C=C1CC2)OCO3)C(=C)C)OC)OC | C25H27NO4
